### PR TITLE
feat(Topology): add API for Hereditarily Lindelof spaces

### PR DESCRIPTION
**Pull request by plp127**
Copies the stuff about Lindelof spaces to Hereditarily Lindelof spaces.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 1]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
-/-- A set `s` is Hereditarily Lindelöf if every subset is a Lindelof set. We require this only
-for open sets in the definition, and then conclude that this holds for all sets by ADD. -/
+/-- A set `s` is Hereditarily Lindelöf if every subset is a Lindelof set. -/
 def IsHereditarilyLindelof (s : Set X) :=
   ∀ t ⊆ s, IsLindelof t
 
+lemma IsHereditarilyLindelof.isLindelof_subset (hs : IsHereditarilyLindelof s) (ht : t ⊆ s) :
+    IsLindelof t := hs t ht
+
+lemma IsHereditarilyLindelof.isHereditarilyLindelof_subset (hs : IsHereditarilyLindelof s)
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:717]:
```suggestion
protected lemma IsHereditarilyLindelof.subset (hs : IsHereditarilyLindelof s)
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 2]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+    (ht : t ⊆ s) : IsHereditarilyLindelof t := fun u hu => hs u (hu.trans ht)
+
+lemma IsHereditarilyLindelof.isLindelof (hs : IsHereditarilyLindelof s) :
+    IsLindelof s := hs.isLindelof_subset Subset.rfl
+
+/-- A continuous image of a Hereditarily Lindelöf set is a Hereditarily Lindelöf set. -/
+theorem IsHereditarilyLindelof.image_of_continuousOn {f : X → Y} (hs : IsHereditarilyLindelof s)
+    (hf : ContinuousOn f s) : IsHereditarilyLindelof (f '' s) := by
+  intro t hst
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:726]: I would use [Set.subset_image_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Set.subset_image_iff) here but it's a matter of taste.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 3]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+  rw [← inter_eq_left.mpr hst, ← image_preimage_inter]
+  exact ((hs.isLindelof_subset inter_subset_right).image_of_continuousOn
+    (hf.mono inter_subset_right))
+
+/-- A continuous image of a Hereditraily Lindelöf set is a
+Hereditarily Lindelöf set within the codomain. -/
+theorem IsHereditarilyLindelof.image {f : X → Y} (hs : IsHereditarilyLindelof s)
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:733]: Please protect lemmas with conflict-prone names like this one.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 4]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+    (hf : Continuous f) : IsHereditarilyLindelof (f '' s) :=
+  hs.image_of_continuousOn hf.continuousOn
+
+theorem Set.Subsingleton.isHereditarilyLindelof (hs : s.Subsingleton) : IsHereditarilyLindelof s :=
+  fun _ h => (hs.anti h).isLindelof
+
+/-- The empty set is a Hereditarily Lindelof set. -/
+@[simp]
+theorem isHereditarilyLindelof_empty : IsHereditarilyLindelof (∅ : Set X) :=
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:742]:
```suggestion
protected theorem IsHereditarilyLindelof.empty : IsHereditarilyLindelof (∅ : Set X) :=
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 5]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+  subsingleton_empty.isHereditarilyLindelof
+
+/-- A singleton set is a Lindelof set. -/
+@[simp]
+theorem isHereditarilyLindelof_singleton {x : X} : IsHereditarilyLindelof ({x} : Set X) :=
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:747]: This will enable the new-style dot notation `.singleton` when the expression type is known.
```suggestion
protected theorem IsHereditarilyLindelof.singleton {x : X} : IsHereditarilyLindelof ({x} : Set X) :=
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 6]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+  subsingleton_singleton.isHereditarilyLindelof
+
+theorem Set.Countable.isHereditarilyLindelof_biUnion {s : Set ι} {f : ι → Set X} (hs : s.Countable)
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:750]: I would add a protected alias `IsHereditarilyLindelof.biUnion`.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 7]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+
+theorem Set.Finite.isHereditarilyLindelof_biUnion {s : Set ι} {f : ι → Set X} (hs : s.Finite)
+    (hf : ∀ i ∈ s, IsHereditarilyLindelof (f i)) : IsHereditarilyLindelof (⋃ i ∈ s, f i) :=
+  hs.countable.isHereditarilyLindelof_biUnion hf
+
+theorem Finset.isHereditarilyLindelof_biUnion (s : Finset ι) {f : ι → Set X}
+    (hf : ∀ i ∈ s, IsHereditarilyLindelof (f i)) : IsHereditarilyLindelof (⋃ i ∈ s, f i) :=
+  s.finite_toSet.isHereditarilyLindelof_biUnion hf
+
+theorem isHereditrailyLindelof_accumulate {K : ℕ → Set X}
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:764]:
```suggestion
protected theorem IsHereditrailyLindelof.accumulate {K : ℕ → Set X}
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 8]
```diff
@@ -693,45 +692,196 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+
+theorem Set.Countable.isHereditarilyLindelof_sUnion {S : Set (Set X)} (hf : S.Countable)
+    (hc : ∀ s ∈ S, IsHereditarilyLindelof s) : IsHereditarilyLindelof (⋃₀ S) := by
+  rw [sUnion_eq_biUnion]; exact hf.isHereditarilyLindelof_biUnion hc
+
+theorem Set.Finite.isHereditarilyLindelof_sUnion {S : Set (Set X)} (hf : S.Finite)
+    (hc : ∀ s ∈ S, IsHereditarilyLindelof s) : IsHereditarilyLindelof (⋃₀ S) := by
+  rw [sUnion_eq_biUnion]; exact hf.isHereditarilyLindelof_biUnion hc
+
+theorem isHereditarilyLindelof_iUnion {ι : Sort*} {f : ι → Set X} [Countable ι]
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:776]:
```suggestion
protected theorem IsHereditarilyLindelof.iUnion {ι : Sort*} {f : ι → Set X} [Countable ι]
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 9]
```diff
@@ -693,45 +692,201 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+theorem Subtype.isHereditarilyLindelof_iff {p : X → Prop} {s : Set { x // p x }} :
+    IsHereditarilyLindelof s ↔ IsHereditarilyLindelof ((↑) '' s : Set X) :=
+  IsEmbedding.subtypeVal.isHereditarilyLindelof_iff
+
+theorem isHereditarilyLindelof_iff_isHereditarilyLindelof_univ :
+    IsHereditarilyLindelof s ↔ IsHereditarilyLindelof (univ : Set s) := by
+  rw [Subtype.isHereditarilyLindelof_iff, image_univ, Subtype.range_coe]
+
+instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀ i, LindelofSpace (X i)] :
+    LindelofSpace (Σi, X i) where
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:838]:
```suggestion
    LindelofSpace (Σ i, X i) where
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 10]
```diff
@@ -693,45 +692,201 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+
+theorem isHereditarilyLindelof_univ_iff :
+    IsHereditarilyLindelof (univ : Set X) ↔ HereditarilyLindelofSpace X :=
+  ⟨fun h => ⟨h⟩, fun h => h.1⟩
+
+theorem isHereditarilyLindelof_range [HereditarilyLindelofSpace X] {f : X → Y} (hf : Continuous f) :
+    IsHereditarilyLindelof (range f) := by
+  rw [← image_univ]; exact .image .univ hf
+
+theorem isHereditarilyLindelof_iff_HereditarilyLindelofSpace :
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:860]:
```suggestion
theorem isHereditarilyLindelof_iff_hereditarilyLindelofSpace :
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 11]
```diff
@@ -693,45 +692,201 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+    IsHereditarilyLindelof s ↔ HereditarilyLindelofSpace s :=
+  isHereditarilyLindelof_iff_isHereditarilyLindelof_univ.trans isHereditarilyLindelof_univ_iff
+
+lemma IsHereditarilyLindelof.of_coe [HereditarilyLindelofSpace s] : IsHereditarilyLindelof s :=
+  isHereditarilyLindelof_iff_HereditarilyLindelofSpace.mpr ‹_›
+
+protected theorem Topology.IsEmbedding.HereditarilyLindelofSpace
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:867]:
```suggestion
protected theorem Topology.IsEmbedding.hereditarilyLindelofSpace
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 12]
```diff
@@ -693,45 +692,201 @@ instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀
...
+      (isHereditarilyLindelof_range continuous_inr)
 
 instance (priority := 100) HereditarilyLindelof.to_Lindelof [HereditarilyLindelofSpace X] :
     LindelofSpace X where
-  isLindelof_univ := HereditarilyLindelofSpace.isHereditarilyLindelof_univ.isLindelof
+  isLindelof_univ := isHereditarilyLindelof_univ.isLindelof
 
+@[deprecated "Use `isHereditarilyLindelof_univ` and `IsHereditarilyLindelof.isLindelof_subset`"
+  (since := "2025-04-19")]
 theorem HereditarilyLindelof_LindelofSets [HereditarilyLindelofSpace X] (s : Set X) :
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:888]: Does `IsLindelof.of_coe` cover it now? If yes, we can just deprecate in favor of `IsLindelof.of_coe`.

**Comment by grunweg** [comment]
@plp127 Can you add the review comments, please? Thanks!

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
